US05002853
50 ml of acetone was added to 3.3 g of N-hydroxyphthalimide and 4.1 g of p-styrenesulfonyl chloride. 2.0 g of triethylamine was dropwise added to the mixture under stirring at room temperature (about 20° C.). The mixture was stirred at room temperature for additional 1 hr. and poured into 200 g of ice/water. The precipitate thus formed was recrystallized from a solvent mixture of benzene/ethanol to obtain 4.6 g of N-hydroxyphthalimide-p-styrenesulfonate.

reactant | acetone | 50 ml | CC(=O)C | C3H6O
reactant | N-hydroxyphthalimide | 3.3 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | p-styrenesulfonyl chloride | 4.1 g | C=CC1=CC=C(C=C1)S(=O)(=O)Cl | C8H7ClO2S
solvent | triethylamine | 2.0 g | C(C)N(CC)CC | C6H15N
product | N-hydroxyphthalimide p-styrenesulfonate | 4.6 g | ON1C(C=2C(C1=O)=CC=CC2)=O.C=CC1=CC=C(C=C1)S(=O)(=O)[O-] | InChI=1S/C8H5NO3.C8H8O3S/c10-7-5-3-1-2-4-6(5)8(11)9(7)12;1-2-7-3-5-8(6-4-7)12(9,10)11/h1-4,12H;2-6H,1H2,(H,9,10,11)/p-1
